US03965100
2,3-Dihydro-5-(phenylmethoxy)cyclopenta[d]pyrido[1,2-a]-pyrimidin-10(1H)-one, hydrochloride (1:1)
To a solution of 2.92 g. of 2,3-dihydro-5-(phenylmethoxy)cyclopenta[d]pyrido[1,2-a]pyrimidin-10(1H)-one in 25 ml of anhydrous ether, cooled externally by a wet ice bath, is added dropwise and with stirring, 10 ml of a N-ethereal hydrogen chloride solution. The salt separates spontaneously. It is filtered and recrystallized from anhydrous 2-propanol-ether to give the named compound as colorless needles.

reactant | 2,3-dihydro-5-(phenylmethoxy)cyclopenta[d]pyrido[1,2-a]pyrimidin-10(1H)-one | C1(=CC=CC=C1)COC1=CC=CN2C1=NC1=C(C2=O)CCC1 | C18H16N2O2
reactant | hydrogen chloride | 10 ml | Cl | ClH
solvent | ether | 25 ml | CCOCC | C4H10O
product | 2,3-Dihydro-5-(phenylmethoxy)cyclopenta[d]pyrido[1,2-a]-pyrimidin-10(1H)-one, hydrochloride | Cl.C1(=CC=CC=C1)COC1=CC=CN2C1=NC1=C(C2=O)CCC1 | InChI=1S/C18H16N2O2.ClH/c21-18-14-8-4-9-15(14)19-17-16(10-5-11-20(17)18)22-12-13-6-2-1-3-7-13;/h1-3,5-7,10-11H,4,8-9,12H2;1H
